US09062055B2
Step 3. 1-[1-(3-Fluorophenyl)-1H-indol-2-yl]ethanone
To a mixture of 1-(3-fluorophenyl)-N-methoxy-N-methyl-1H-indole-2-carboxamide (0.30 g, 1.0 mmol) in tetrahydrofuran (6 mL) was added 1.4 M methylmagnesium bromide in tetrahydrofuran (1.1 mL, 1.5 mmol). The reaction was stirred at room temperature for 2 hours, then quenched with saturated NH4Cl solution, extracted with EtOAc. The combined organic layers were washed with brine, dried over MgSO4 and concentrated to give the desired product (0.27 g). The crude product was used directly in next step. LCMS calculated for C16H13FNO(M+H)+: m/z=254.1. Found: 254.1.

reactant | 1-(3-fluorophenyl)-N-methoxy-N-methyl-1H-indole-2-carboxamide | 1.0 mmol, 0.30 g | FC=1C=C(C=CC1)N1C(=CC2=CC=CC=C12)C(=O)N(C)OC | C17H15FN2O2
reactant | methylmagnesium bromide | 1.4 M | C[Mg]Br
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.5 mmol, 1.1 mL | O1CCCC1 | C4H8O
product | 1-[1-(3-Fluorophenyl)-1H-indol-2-yl]ethanone | 0.27 g | FC=1C=C(C=CC1)N1C(=CC2=CC=CC=C12)C(C)=O | C16H12FNO
